US06919329B2
Step 4: Preparation of 3,4-dihydro-4-methyl-7-amino-2H-1,4-benzothiazin-3-one
To a stirred solution of 3,4-dihydro-4-methyl-7-nitro-2H-1,4-benzothiazin-3-one (4.50 g, 20.07 mmol) in EtOH (100 mL) and water (50 mL) is added ammonium chloride (10.76 g, 200.7 mmol). To this mixture is added iron (3.37 g, 60.21 mmol) in 3 equal portions. The resulting mixture is heated to 80° C. for 2 h at which time the reaction is cooled to room temperature. This mixture is filtered and the filtrate is concentrated under reduced pressure and extracted with EtOAc (3×50 mL). The organic phase is washed with water and saline, dried over MgSO4, and concentrated under reduced pressure to give the title compound (for reference see DE 19802239) as a dark brown oil (3.60 g, 93%), MS m/z 195.5 (M+H)+.

reactant | 3,4-dihydro-4-methyl-7-nitro-2H-1,4-benzothiazin-3-one | 20.07 mmol, 4.50 g | CN1C(CSC2=C1C=CC(=C2)[N+](=O)[O-])=O | C9H8N2O3S
reactant | ammonium chloride | 200.7 mmol, 10.76 g | [Cl-].[NH4+]
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | water | 50 mL | O | H2O
catalyst | iron | 60.21 mmol, 3.37 g | [Fe] | Fe
product | 3,4-dihydro-4-methyl-7-amino-2H-1,4-benzothiazin-3-one | 3.60 g, 93% | CN1C(CSC2=C1C=CC(=C2)N)=O | C9H10N2OS
